US07456191B2
3-(5-Bromo-2-chloro-pyrimidin-4-ylsulfanyl)-propan-1-ol
A solution of 2.47 g (10.8 mmol) of 5-Bromo-2,4-dichloropyrimidine in 30 ml of acetonitrile at −20° C. is mixed with 1.5 ml (10.8 mmol) of triethylamine and 1.00 g (10.8 mmol) of 3-Mercapto-propan-1-ol. The batch is slowly warmed to room temperature and stirred for 16 hours. The batch is filtrated to remove the solid precipitate. The filtrate is concentrated by evaporation. 2-Methoxy-2-methyl-propane is added to the remaining residue and the batch is stirred for 15 minutes. The batch is filtrated and the solid precipitate is dried. 3.03 g (10.6 mmol, corresponding to 98% of theory) of the product is obtained.

reactant | 5-Bromo-2,4-dichloropyrimidine | 10.8 mmol, 2.47 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 10.8 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-Mercapto-propan-1-ol | 10.8 mmol, 1.00 g | SCCCO | C3H8OS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(5-Bromo-2-chloro-pyrimidin-4-ylsulfanyl)-propan-1-ol | BrC=1C(=NC(=NC1)Cl)SCCCO | C7H8BrClN2OS
